US07531546B2
To a solution of crude 1,3-dioxo-2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (1.6 g) in ethyl acetate (1 ml), EtOH (1.0 ml) and 4N HCl/ethyl acetate (4 ml) are added at room temperature. The reaction mixture is stirred for overnight at room temperature. The solvent is removed by evaporation to give 1.06 g of crude 2-(2-hydroxy-ethyl)-2,8-diaza-spiro[4.5]decane-1,3-dione. hydrochloride.

reactant | 1,3-dioxo-2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 1.6 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)CCOC2OCCCC2)=O)CC1 | C20H32N2O6
reactant | HCl ethyl acetate | 4N, 4 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | 2-(2-hydroxy-ethyl)-2,8-diaza-spiro[4.5]decane-1,3-dione. hydrochloride | 1.06 g | Cl.OCCN1C(C2(CC1=O)CCNCC2)=O | InChI=1S/C10H16N2O3.ClH/c13-6-5-12-8(14)7-10(9(12)15)1-3-11-4-2-10;/h11,13H,1-7H2;1H
